US04690929
A mixture of 5.1 g of 8β-aminomethyl-6-methyl-ergoline and 1.8 ml of methyl acrylate in 100 ml of methanol was refluxed for four hours. The solvent was evaporated off under reduced pressure, and the residue was crystallized from diethyl ether to give 6 g of 6-methyl-8β-[N-(2-methoxycarbonylethyl)-aminomethyl]-ergoline (II: R1 =R2 =R3 =R7 =R8 =H, R4 =CH3, n=1, A=CH2 --CHR6, R6 =H, B=COOCH3) melting at 130°-132° C. To a solution of 2.86 g of potassium cyanate in 30 ml of water, a solution of 6 g of 6-methyl-8β-[N-(2-methoxycarbonylethyl)-aminomethyl]-ergoline in 120 ml of water and 35 ml of 1N hydrochloric acid was added. This reaction mixture was heated for four hours at 80° C. and allowed to stand overnight at room temperature. The solid separated out and was filtered off and recrystallized from ethanol to give 4.5 g of the title compound melting at 330° C. with decomposition.

reactant | 8β-aminomethyl-6-methyl-ergoline | 5.1 g | NC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C16H21N3
reactant | methyl acrylate | 1.8 ml | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 100 ml | CO | CH4O
product | 6-methyl-8β-[N-(2-methoxycarbonylethyl)-aminomethyl]-ergoline | 6 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNCCC(=O)OC | C20H27N3O2
